US09416136B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (205 mg, 0.7 mmol) and 4-(6-amino-pyridine-3-carbonyl)-piperazine-1-carboxylic acid tort-butyl ester (236 mg, 0.8 mmol), followed by deprotection using General Procedure A to give 7-cyclopentyl-2-[5-(piperazine-1-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (13 mg, 41%).

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.7 mmol, 205 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 4-(6-amino-pyridine-3-carbonyl)-piperazine-1-carboxylic acid | NC1=CC=C(C=N1)C(=O)N1CCN(CC1)C(=O)O | C11H14N4O3
product | 7-cyclopentyl-2-[5-(piperazine-1-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 13 mg, 41% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CCNCC2)N1C1CCCC1)C | C24H30N8O2
